US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-isopropyl-5-(4-methylphenyl)isoxazole
3-Hydroxy-4-isopropyl-5-(4-methylphenyl)isoxazole (0.2 g) and 2-(N-tert-butoxycarbonylamino)ethanol (0.16 g) were subjected to reaction and post-treatment in a similar manner to that described in Example 1 (a) to obtain the title compound (0.27 g, 82%) as a colorless powder.

reactant | 3-Hydroxy-4-isopropyl-5-(4-methylphenyl)isoxazole | 0.2 g | OC1=NOC(=C1C(C)C)C1=CC=C(C=C1)C | C13H15NO2
reactant | 2-(N-tert-butoxycarbonylamino)ethanol | 0.16 g | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-isopropyl-5-(4-methylphenyl)isoxazole | 0.27 g, 82% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1C(C)C)C1=CC=C(C=C1)C | C20H28N2O4
